US05728835
4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-pyridyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-pyridyl)benzamide (150.0 mg, 0.335 mmol) and acetic anhydride (0.038 ml, 0.40 mmol), the procedure of Inventive Example 94 was repeated to obtain 151.0 mg (95.6%) of the title compound in a colorless amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-pyridyl)benzamide | 0.335 mmol, 150.0 mg | NC1=CC=C(C(=O)N(C=2C=NC=CC2)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C26H27FN4O2
reactant | acetic anhydride | 0.40 mmol, 0.038 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-pyridyl)benzamide | 151.0 mg, 95.6% | C(C)(=O)NC1=CC=C(C(=O)N(C=2C=NC=CC2)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H29FN4O3
